US03981908
2 g phosphorus trichloride and 2 g phosphorus pentachloride were dissolved with 2 g cupric chloride in 500 ml glacial acetic acid and 50 ml acetic anhydride and then further treated a described in Example 4. 5.2 g propylene glycol diacetate were obtained.

reactant | phosphorus trichloride | 2 g | P(Cl)(Cl)Cl | Cl3P
reactant | phosphorus pentachloride | 2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | propylene glycol diacetate | 5.2 g | C(C)(=O)OCC(C)OC(C)=O | C7H12O4
